US08242260B2
A mixture of 1-(aminomethyl)cyclopropanecarbonitrile (0.67 g, 7.0 mmol), 4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)-2-chloropyrimidine (2.01 g, 4.7 mmol), DIEA (1.64 ml, 9.35 mmol), Na2CO3 (0.99 g, 9.4 mmol) and NMP (2 mL) was heated at 110° C. for 25 hours. The reaction mixture was allowed to cool to room temperature and partitioned between EtOAc (10 mL) and water (20 mL). The layers were separated and the organic portion was sequentially washed with water (20 mL), brine (10 mL), and concentrated. The resulting residue was purified by flash chromatography on silica gel eluting with an EtOAc-heptane (0-50%) gradient to provide 1-((4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)methyl)cyclopropanecarbonitrile (1.50 g, 3.06 mmol, 66%) as a white foam. LCMS(m/z) 491.1 (MH+), tR=0.99 minute.

reactant | 1-(aminomethyl)cyclopropanecarbonitrile | 7.0 mmol, 0.67 g | NCC1(CC1)C#N | C5H8N2
reactant | 4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)-2-chloropyrimidine | 4.7 mmol, 2.01 g | BrC=1N=C(N(C1C1=NC(=NC=C1)Cl)COCC[Si](C)(C)C)C1CC1 | C16H22BrClN4OSi
reactant | DIEA | 9.35 mmol, 1.64 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Na2CO3 | 9.4 mmol, 0.99 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 1-((4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)methyl)cyclopropanecarbonitrile | 3.06 mmol, 1.50 g, 66% | BrC=1N=C(N(C1C1=NC(=NC=C1)NCC1(CC1)C#N)COCC[Si](C)(C)C)C1CC1 | C21H29BrN6OSi
